US04302460
Sodium (7.65 g.) was dissolved in anhydrous methanol (450 ml.) and the solution evaporated to dryness. The resulting sodium methoxide was suspended in anhydrous diethyl ether (300 ml.). The suspension was stirred at 0° and methyl methylthioacetate (40 g.) was added dropwise. The mixture was stirred at 0° for 1 hour and then treated dropwise with methyl formate (21 g.). The mixture was stirred at 0° for 1 hour and then stirred overnight at room temperature. The resulting suspension of solid was extracted with water (300 ml.) and the aqueous extract adjusted to 333 ml. with water. This aqueous extract containing methyl-3-hydroxy-2-methylthioacrylate, sodium salt (0.33 mole) was added to a stirred solution of 3-chloro-4-methoxyaniline (52 g.) in a mixture of water (800 ml.) and 11.6 N hydrochloric acid (33 ml.) at 0°. The mixture was stirred for 30 minutes and the product collected by filtration to give the novel intermediate compound methyl 3-(3-chloro-4-methoxyanilino)-2-methylthioacrylate, m.p. 110°-112°. This acrylate (77.6 g.) was added to diphenyl ether (200 ml.) stirred at 250° under nitrogen. After stirring at 250° for 15 minutes the mixture was cooled. The resulting precipitate was collected by filtration to give the novel intermediate compound 7-chloro-6-methoxy-3-methylthio-4-quinolone, m.p. 288°-290° (dec.) Examination by thin layer chromatography showed the presence of a minor amount of the corresponding 5-chloro isomer.

reactant | Sodium | 7.65 g | [Na] | Na
reactant | methyl-3-hydroxy-2-methylthioacrylate | COC(C(=CO)C)=S | C5H8O2S
reactant | sodium | 0.33 mole | [Na] | Na
reactant | 3-chloro-4-methoxyaniline | 52 g | ClC=1C=C(N)C=CC1OC | C7H8ClNO
solvent | methanol | 450 ml | CO | CH4O
solvent | water | 800 ml | O | H2O
solvent | hydrochloric acid | 11.6 N, 33 ml | Cl | ClH
product | methyl 3-(3-chloro-4-methoxyanilino)-2-methylthioacrylate | ClC=1C=C(NC=C(C(=S)OC)C)C=CC1OC | C12H14ClNO2S
